US05530130
4-Benzenesulphonyl-1,2,-dimethylbenzene
110 g of o-xylene, 176 g of benzenesulphonyl chloride and 0.16 g of iron(III) chloride are brought together at room temperature and the mixture is heated at 110° C. in the course of 2 hours. When the evolution of HCl has ended, the mixture is heated to 140° C. and the product is discharged onto a metal sheet. On cooling, the melt solidifies to a colourless mass. Yield: 243 g.

reactant | benzenesulphonyl chloride | 176 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | HCl | Cl | ClH
reactant | o-xylene | 110 g | CC=1C=CC=CC1C | C8H10
catalyst | iron(III) chloride | 0.16 g | [Fe](Cl)(Cl)Cl
product | 4-Benzenesulphonyl-1,2,-dimethylbenzene | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)C)C | C14H14O2S
